US03940434
A solution of 1 g of 5-cycloheptyl-6-chloro-ind-1-ene-1-carboxylic acid in 40 ml of absolute ethanol is hydrogenated with 100 mg of Raney nickel at room temperature and normal pressure until 1 equivalent of hydrogen has been taken up. The catalyst is then filtered off, the filtrate is evaporated to dryness in vacuo and the residue is crystallised from ether/petroleum ether. 5-Cycloheptyl-6-chloro-1-indanecarboxylic acid, thus obtained, melts at 138°-140°C.

reactant | 5-cycloheptyl-6-chloro-ind-1-ene-1-carboxylic acid | 1 g | C1(CCCCCC1)C=1C=C2CC=C(C2=CC1Cl)C(=O)O | C17H19ClO2
reactant | hydrogen | 1 equivalent | [H][H] | H2
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | Raney nickel | 100 mg | [Ni] | Ni
product | 5-Cycloheptyl-6-chloro-1-indanecarboxylic acid | C1(CCCCCC1)C=1C=C2CCC(C2=CC1Cl)C(=O)O | C17H21ClO2
